US03932411
5-{3-[4-(2-ethoxyphenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one
from 5-hydroxy-1-oxotetraline and 1-(3-chloropropyl)-4-(2-ethoxyphenyl)-piperazine; yield 86% of theory; the hydrochloride, after recrystallization from water, contained, after drying, 0.406 mol water; m.p. 196°-197°C.

reactant | 5-hydroxy-1-oxotetraline | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | 1-(3-chloropropyl)-4-(2-ethoxyphenyl)-piperazine | ClCCCN1CCN(CC1)C1=C(C=CC=C1)OCC | C15H23ClN2O
reactant | water | 0.406 mol | O | H2O
product | 5-{3-[4-(2-ethoxyphenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one | yield 86% | C(C)OC1=C(C=CC=C1)N1CCN(CC1)CCCOC1=C2CCCC(C2=CC=C1)=O | C25H32N2O3
